US05861419
Step 1: Trifluoromethanesulfonic acid 2-methylpyridin-5-yl ester
To a mixture of 5-hydroxy-2-methylpyridine (2 g) and pyridine (1.9 mL) in dichloromethane (100 mL) at 0° C. was added trifluoromethanesulfonic acid anhydride (3.4 mL). The mixture was stirred at this temperature for 15 min and then at r.t. for 45 min. Ammonium acetate (25%) was added and the organics were removed and washed with 1N HCl, dried and concentrated. The title compound was obtained as a beige liquid (4 g) that was used as such.

reactant | 5-hydroxy-2-methylpyridine | 2 g | OC=1C=CC(=NC1)C | C6H7NO
reactant | pyridine | 1.9 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic acid anhydride | 3.4 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Trifluoromethanesulfonic acid 2-methylpyridin-5-yl ester | CC1=NC=C(C=C1)OS(=O)(=O)C(F)(F)F | C7H6F3NO3S
